US08058269B2
The mixture of 4-(2-Amino-4-chloro-benzenesulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester (20 mg, 0.051 mmol), rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (30 mg, 0.081 mmol) and K2CO3 (30 mg, 0.22 mmol) in DCM (1 mL) was stirred at room temperature overnight. The mixture was purified by column chromatography to give 22 mg rac-4-{4-Chloro-2-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-benzenesulfonylamino}-piperidine-1-carboxylic acid tert-butyl ester. MS: [M+H]+=679

reactant | 4-(2-Amino-4-chloro-benzenesulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.051 mmol, 20 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=C(C=C(C=C1)Cl)N | C16H24ClN3O4S
reactant | rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 0.081 mmol, 30 mg | BrC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C15H10BrCl2NO
reactant | K2CO3 | 0.22 mmol, 30 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | rac-4-{4-Chloro-2-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-benzenesulfonylamino}-piperidine-1-carboxylic acid tert-butyl ester | 22 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=C(C=C(C=C1)Cl)NC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C31H33Cl3N4O5S
